US08686150B2
(c) [3-Ethyl-6-(3-fluoro-4-hydroxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-4-yl]-piperazin-1-yl-methanone
To a solution of 4-[3-ethyl-6-(3-fluoro-4-hydroxy-phenyl)-1H-pyrazolo[3,4-b]pyridine-4-carbonyl]-piperazine-1-carboxylic acid tert-butyl ester (0.23 g, 0.50 mmol) in iso-propanol (7 ml) was added 4N HCl in dioxane (1.3 ml). The reaction mixture was heated for 4 hours, diethyl ether was then added, the resulting precipitate was filtered off and washed once with diethyl ether to afford the hydrochloride salt of the title compound (0.19 g, 97%) as a yellow solid.

reactant | 4-[3-ethyl-6-(3-fluoro-4-hydroxy-phenyl)-1H-pyrazolo[3,4-b]pyridine-4-carbonyl]-piperazine-1-carboxylic acid tert-butyl ester | 0.50 mmol, 0.23 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C=1C2=C(N=C(C1)C1=CC(=C(C=C1)O)F)NN=C2CC | C24H28FN5O4
reactant | HCl | 4N | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | iso-propanol | 7 ml | C(C)(C)O | C3H8O
solvent | dioxane | 1.3 ml | O1CCOCC1 | C4H8O2
product | [3-Ethyl-6-(3-fluoro-4-hydroxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-4-yl]-piperazin-1-yl-methanone | 0.19 g, 97% | C(C)C1=NNC2=NC(=CC(=C21)C(=O)N2CCNCC2)C2=CC(=C(C=C2)O)F | C19H20FN5O2
